US08580824B2
Under argon, Pd(dppf) (200 mg, 0.245 mmol) is added to a solution of 2-chloro-isonicotinic acid ethyl ester (4.80 g, 24.0 mmol) in dioxane (60 mL). A solution of cyclopentyl zinc chloride (50 mL, 24.0 mmol, ˜2 M solution in THF) is added dropwise. The mixture is stirred at 75° C. for 2 h before it is cooled to rt, carefully diluted with water and extracted twice with EA. The combined org. extracts are dried over MgSO4, filtered and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 9:1 to give 2-cyclopentyl-6-methyl-isonicotinic acid ethyl ester (3.96 g) as an oil; LC-MS: tR=0.72 min, [M+1]+=234.11.

reactant | 2-chloro-isonicotinic acid ethyl ester | 24.0 mmol, 4.80 g | C(C)OC(C1=CC(=NC=C1)Cl)=O | C8H8ClNO2
reactant | cyclopentyl zinc chloride | 24.0 mmol, ˜2 M, 50 mL | [Cl-].C1(CCCC1)[Zn+]
reactant | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-cyclopentyl-6-methyl-isonicotinic acid ethyl ester | 3.96 g | C(C)OC(C1=CC(=NC(=C1)C)C1CCCC1)=O | C14H19NO2
